US08119617B2
Tto a solution of [(2-amino-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester NVP-VAV664 in CH2Cl2 are added 5 equivalents of pyridine followed by 1 equivalent of 4′-octyloxy-biphenyl-4-carbonylchloride at rt and the mixture obtained is stirred for ca. 10 to 20 minutes. To the mixture obtained EtOAc is added and and the mixture obtained is extracted with NaHCO3. From the organic phase obtained solvent is evaporated and the evaporation residue is subjected to column chromatography. (Difluoro-{2-[(4′-octyloxy-biphenyl-4-carbonyl)-amino]-phenyl}-methyl)-phosphonic acid diethyl ester is obtained in the form of a colourless powder.

reactant | [(2-amino-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(F)(F)C1=C(C=CC=C1)N | C11H16F2NO3P
reactant | pyridine | 5 equivalents | N1=CC=CC=C1 | C5H5N
reactant | 4′-octyloxy-biphenyl-4-carbonylchloride | 1 equivalent | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C21H25ClO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (Difluoro-{2-[(4′-octyloxy-biphenyl-4-carbonyl)-amino]-phenyl}-methyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(C1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC)(F)F | C32H40F2NO5P
